US07759339B2
Trans-2-(4-(2-chlorophenylsulfonyl)piperazin-1-yl)cyclopentanol
1-(2-Chlorophenylsulfonyl)piperizine (1 eq, 0.19 mmol) was dissolved in ethyl alcohol (2 ml), then treated with 6-oxa-bicyclo[3,1,0]hexane (2eq, 0.38 mmol), the reaction solution was heated to 80° C. for 8 hour. The reaction mixture was purified by prep-HPLC. 1H NMR (400 MHz, CHLOROFORM-D) δ ppm 1.36-1.48 (m, 1 H), 1.49-1.74 (m, 3 H), 1.81-2.03 (m, 2 H), 2.52-2.67 (m, 3 H), 2.68-2.78 (m, 2 H), 3.28-3.37 (m, 4 H), 3.99-4.18 (m, 1 H), 7.33-7.42 (m, 1 H), 7.44-7.58 (m, 2 H), 7.98 (d, J=8.21, 1.14 Hz, 1 H); ESI-MS: m/z 345 (m+H)+.

reactant | 1-(2-Chlorophenylsulfonyl)piperizine | 0.19 mmol, 1 eq | ClC1=C(C=CC=C1)S(=O)(=O)N1CCNCC1 | C10H13ClN2O2S
reactant | 6-oxa-bicyclo[3,1,0]hexane | 0.38 mmol, 2eq | C12CCCC2O1 | C5H8O
solvent | ethyl alcohol | 2 ml | C(C)O | C2H6O
product | Trans-2-(4-(2-chlorophenylsulfonyl)piperazin-1-yl)cyclopentanol | ClC1=C(C=CC=C1)S(=O)(=O)N1CCN(CC1)[C@H]1[C@@H](CCC1)O | C15H21ClN2O3S
